US06627651B1
To methyl 7-[4-(2-ethoxyethoxy)-3,5-dimethylphenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.39 g) dissolved in methanol (5 ml) and THF (10 ml) was added a 1 M aqueous solution of potassium carbonate (2.5 ml), and the resulting mixture was stirred overnight at 70° C. The reaction mixture was concentrated, was then neutralized with 1 N hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain 7-[4-(2-ethoxyethoxy)-3,5-dimethylphenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (0.33 g) as colorless crystals.

reactant | methyl 7-[4-(2-ethoxyethoxy)-3,5-dimethylphenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.39 g | C(C)OCCOC1=C(C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1C)C | C24H28O7S
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | potassium carbonate | 2.5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | 7-[4-(2-ethoxyethoxy)-3,5-dimethylphenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 0.33 g | C(C)OCCOC1=C(C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=C1C)C | C23H26O7S
